US07196080B2
To a THF (5 ml) solution of 171 mg of 4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}benzoic acid was added 63 mg of CDI, followed by stirring at 60° C. Further, 52 mg of CDI was added in twice thereto, and the whole was stirred at 60° C. for 24 hours in total. After the reaction solution was cooled to room temperature, 0.25 ml of aqueous ammonia was added thereto, followed by 6 hours of stirring at room temperature. Further, 0.5 ml of aqueous ammonia was added thereto and the whole was stirred at room temperature. Thus precipitated crude crystals were collected by filtration and recrystallized from methanol-THF to obtain 68 mg of 4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}benzamide as colorless crystals.

reactant | 4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}benzoic acid | 171 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C25H25N3O5
reactant | CDI | 63 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | CDI | 52 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ammonia | 0.25 ml | N | H3N
reactant | ammonia | 0.5 ml | N | H3N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}benzamide | 68 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C(=O)N)C=C1 | C25H26N4O4
